US04673746
7-chloro-6-hydroxy-3-(2-pyridyl)-1,2-benzisoxazole (10.0 g) is dissolved in 80 ml of DMF and added to an ice cold suspension of NaH (1.1 g) in 50 ml of DMF. When hydrogen evolution ceases, ethyl bromoacetate (7.5 g) in 20 ml of DMF is added. After an additional 90 minutes, 200 ml of H2O and 10 ml of 50% NaOH are added and the reaction warmed at 65° C. for 45 minutes. The mixture is poured into H2O, acidified to pH 1-2, and a solid product filtered and dried to give {[7-chloro-3-(2-pyridyl)-1,2-benzisoxazole-6-yl]oxy}acetic acid, mp 255°-256° C.

reactant | 7-chloro-6-hydroxy-3-(2-pyridyl)-1,2-benzisoxazole | 10.0 g | ClC1=C(C=CC=2C(=NOC21)C2=NC=CC=C2)O | C12H7ClN2O2
reactant | NaH | 1.1 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl bromoacetate | 7.5 g | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | 10 ml | [OH-].[Na+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | H2O | 200 ml | O | H2O
product | {[7-chloro-3-(2-pyridyl)-1,2-benzisoxazole-6-yl]oxy}acetic acid | ClC1=C(C=CC=2C(=NOC21)C2=NC=CC=C2)OCC(=O)O | C14H9ClN2O4
